US08076336B2
1-[3-tert-Butyl-4-methoxy-5-(3-methoxypropoxy)phenyl]ethanone
1-(3-tert-Butyl-5-hydroxy-4-methoxyphenyl)ethanone (O3.070; 2.00 g) and 1-bromo-3-methoxypropane (1.65 g) were converted, worked up and purified analogously to O2.110. 1.50 g of the title compound were obtained.

reactant | 1-(3-tert-Butyl-5-hydroxy-4-methoxyphenyl)ethanone | 2.00 g | C(C)(C)(C)C=1C=C(C=C(C1OC)O)C(C)=O | C13H18O3
reactant | 1-bromo-3-methoxypropane | 1.65 g | BrCCCOC | C4H9BrO
product | 1-[3-tert-Butyl-4-methoxy-5-(3-methoxypropoxy)phenyl]ethanone | 1.50 g | C(C)(C)(C)C=1C=C(C=C(C1OC)OCCCOC)C(C)=O | C17H26O4
